### PR TITLE
Dyadic Rationals

### PR DESCRIPTION
**Pull request by adsneap**
This pull request contains a formalisation of dyadic rationals. This includes addition along with associativity proofs, multiplication along with associativity and commutativity proofs and negation.

It also includes a new exponents file for integers, which is used in the dyadic rationals files.

### CODE REVIEW

File: source/Dyadics/Type.lagda [hunk 1]
```diff
@@ -0,0 +1,528 @@
...
+  I : x * pos (2^ (succ n)) * pos 2 ＝ y * pos (2^ 0) * pos 2
+  I = x * pos (2^ (succ n)) * pos 2   ＝⟨ ℤ*-assoc x (pos (2^ (succ n))) (pos 2)                       ⟩
+      x * (pos (2^ (succ n)) * pos 2) ＝⟨ ap (x *_) (pos-multiplication-equiv-to-ℕ (2^ (succ n)) 2)    ⟩
+      x * pos (2^ (succ n) ℕ* 2)      ＝⟨ ap (λ - → x * pos -) (mult-commutativity (2^ (succ n)) 2)    ⟩
+      x * pos (2^ (succ (succ n)))    ＝⟨ e                                                            ⟩
+      y * pos (2^ 1)                  ＝⟨ ap (y *_) (pos-multiplication-equiv-to-ℕ 2 1) ⁻¹             ⟩
+      y * (pos 2 * pos 1)             ＝⟨ refl                                                         ⟩
+      y * pos (2^ 0) * pos 2          ∎
+
+≈'-to-＝' : (x : ℤ) (m : ℕ) (y : ℤ) (n : ℕ) → (x , m) ≈' (y , n) → m > 0 × ℤodd x → n > 0 × ℤodd y → (x , m) ＝ (y , n)
```
Comment (martinescardo) [inline source/Dyadics/Type.lagda:363]: Could you please avoid lines longer than 80 characters?

Comment (martinescardo) [reply source/Dyadics/Type.lagda:363]: (Everywhere.)

File: source/Integers/Exponents.lagda [hunk 2]
```diff
@@ -0,0 +1,66 @@
+Andrew Sneap
```
Comment (martinescardo) [inline source/Integers/Exponents.lagda:1]: Shouldn't this file be called "Exponentiation"?

**Review by martinescardo — APPROVED** [review]
Thanks a lot. I will accept your pull request. However, could you please address a few minor issues?
